US07268150B2
A solution of 500 mg of tert-butyl piperidin-4-ylcarbamate and 345 mg of ethyl fluoroacetate in 1 ml of trifluoroethanol was heated under reflux for 8 hours. The reaction mixture was concentrated under reduced pressure, and 1 M hydrochloric acid was added to the resulting residue. Then, this was extracted with EtOAc, and the organic layer was washed with aqueous saturated sodium hydrogencarbonate and brine. This was then dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The resulting residue was purified with silica gel column chromatography (eluent: chloroform to chloroform/methanol=30/1) to obtain 345 mg of tert-butyl [1-(fluoroacetyl)piperidin-4-yl]carbamate.

reactant | tert-butyl piperidin-4-ylcarbamate | 500 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | ethyl fluoroacetate | 345 mg | FCC(=O)OCC | C4H7FO2
solvent | trifluoroethanol | 1 ml | C(C(F)(F)F)O | C2H3F3O
product | tert-butyl [1-(fluoroacetyl)piperidin-4-yl]carbamate | 345 mg | FCC(=O)N1CCC(CC1)NC(OC(C)(C)C)=O | C12H21FN2O3
